US08912217B1
Synthesis of d-Methylphenidate Free Base
To a 200 mL beaker was charged 10.0 g (37.1 mmol) racemic-methylphenidate hydrochloride and 135 mL water. Ammonium hydroxide (3.40 g; 96.8 mmol) was then added to bring the pH to approximately 9 upon which an oily semi-solid formed. The product was extracted with three 100 mL portions of ethyl acetate, the combined organic layers were dried over sodium sulfate, filtered and concentrated under reduce pressure at 40° C. to provide 8.5 g of a clear, colorless viscous oil (98% yield). The free base was characterized by FTIR and found to be consistent with the anticipated structure

reactant | methylphenidate hydrochloride | COC(=O)C(C=1C=CC=CC1)C2CCCCN2.Cl
reactant | Ammonium hydroxide | 96.8 mmol, 3.40 g | [OH-].[NH4+]
solvent | water | 135 mL | O | H2O
product | d-Methylphenidate | 98% yield | COC(=O)[C@@H]([C@H]1CCCCN1)C2=CC=CC=C2 | C14H19NO2
